US07534788B2
Step 2: 5-Hydroxy-benzo[b]thiophene-2-carboxylic acid methyl ester
The above prepared 5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester (0.199 g, 0.895 mmol) was dissolved in 6 mL of CH2Cl2, cooled to 0° C., and treated with BBr3 (1.79 mL of 1M solution in CH2Cl2, 2 eq.). After 2 additional h at 0° C., the reaction mixture was carefully poured onto crashed ice, twofold extracted with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) yielded 0.145 g of the title compound as off-white solid.

reactant | 5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.895 mmol, 0.199 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OC | C11H10O3S
reactant | BBr3 | 1M, 1.79 mL, 2 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.145 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)O | C10H8O3S
